US04399141
Step B: Preparation of 5-hydroxy-5-methyl-10-(1-piperidyl)-5H-dibenzo[a,d]cycloheptene
A solution of 140 ml. of 1.8 molar methyl lithium in ether and 250 ml. of ether at 5°-10° C. under nitrogen was treated dropwise with a solution of 59 g of 10-(1-piperidyl)-5H-dibenzo[a,d]cyclohepten-5-one in 250 ml of tetrahydrofuran. After a total of 2 hours, the mixture was poured onto ice and allowed to stand until the ice melted. The mixture was extracted well with ether and the extract was dried (Na2SO4), filtered, and concentrated to dryness, the residue being used directly in the next step.

reactant | methyl lithium | 1.8 molar | C[Li]
reactant | 10-(1-piperidyl)-5H-dibenzo[a,d]cyclohepten-5-one | 59 g | N1(CCCCC1)C1=CC2=C(C(C3=C1C=CC=C3)=O)C=CC=C2 | C20H19NO
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 5-hydroxy-5-methyl-10-(1-piperidyl)-5H-dibenzo[a,d]cycloheptene | OC1(C2=C(C(=CC3=C1C=CC=C3)N3CCCCC3)C=CC=C2)C | C21H23NO
